US08084481B2
2-(4-chlorobenzoyl)-N-(3-fluorophenylmethyl)-hydrazinecarboxamide
553 mg (3.24 mmol) of 4-chlorobenzoic acid hydrazide are placed in 10 ml tetrahydrofuran at room temperature. 500 mg (3.31 mmol) of 3-fluorophenylmethyl isocyanate, dissolved in 5 ml tetrahydrofuran, are rapidly added dropwise to this suspension with stirring. The mixture is further stirred overnight at room temperature. The reaction mixture is treated with 50 ml diethyl ether, and the precipitate is recovered by filtration, then washed with diethyl ether and dried in vacuo. 965 mg (92% of theory) of the target compound are thus obtained

reactant | 4-chlorobenzoic acid hydrazide | 3.24 mmol, 553 mg | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | 3-fluorophenylmethyl isocyanate | 3.31 mmol, 500 mg | FC=1C=C(C=CC1)CN=C=O | C8H6FNO
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzoyl)-N-(3-fluorophenylmethyl)-hydrazinecarboxamide | ClC1=CC=C(C(=O)NNC(=O)NCC2=CC(=CC=C2)F)C=C1 | C15H13ClFN3O2
